US07491720B2
(2) Synthesis of N-(6-(tert-butyldimethylsilyloxymethyl)pyridin-2-yl)-3-oxobutanamide
6.6 mL of tert-butyl acetoacetate was dissolved in 10 mL of toluene and the mixture was stirred at 100° C. for 1 hour. To the reaction solution was added a solution of 1.9 g (8.1 mmol) of 2-amino-6-(tert-butyldimethylsilyloxymethyl)pyridine in 5 mL of toluene and the mixture was stirred at the same temperature for 15 hours. The reaction solution was concentrated and the resulting residue was purified by a silica gel column chromatography to give 2.2 g of the title compound as a yellow oil.

reactant | tert-butyl acetoacetate | 6.6 mL | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | 2-amino-6-(tert-butyldimethylsilyloxymethyl)pyridine | 8.1 mmol, 1.9 g | NC1=NC(=CC=C1)CO[Si](C)(C)C(C)(C)C | C12H22N2OSi
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(6-(tert-butyldimethylsilyloxymethyl)pyridin-2-yl)-3-oxobutanamide | 2.2 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)NC(CC(C)=O)=O | C16H26N2O3Si
